************************************************************************
* auCdl Netlist:
* 
* Library Name:  systolic_array
* Top Cell Name: sys_arr_ppl
* View Name:     schematic
* Netlisted on:  May 15 10:15:12 2025
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: lab1_virt
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND VDD Y
*.PININFO A:I B:I GND:I VDD:I Y:O
MNM1 net16 B GND GND g45n1svt m=1 l=45n w=240n
MNM0 Y A net16 GND g45n1svt m=1 l=45n w=240n
MPM1 Y A VDD VDD g45p1svt m=1 l=45n w=240n
MPM0 Y B VDD VDD g45p1svt m=1 l=45n w=240n
.ENDS

************************************************************************
* Library Name: accumulator_bitslice
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A GND VDD Y
*.PININFO A:I GND:I VDD:I Y:O
MNM0 Y A GND GND g45n1svt m=1 l=45n w=120n
MPM0 Y A VDD VDD g45p1svt m=1 l=45n w=240n
.ENDS

************************************************************************
* Library Name: accumulator_bitslice
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B GND VDD Y
*.PININFO A:I B:I GND:I VDD:I Y:O
MPM3 Y A net24 VDD g45p1svt m=1 l=45n w=480n
MPM2 Y net010 net25 VDD g45p1svt m=1 l=45n w=480n
MPM1 net24 net09 VDD VDD g45p1svt m=1 l=45n w=480n
MPM0 net25 B VDD VDD g45p1svt m=1 l=45n w=480n
MNM3 net22 B GND GND g45n1svt m=1 l=45n w=240n
MNM2 net23 net09 GND GND g45n1svt m=1 l=45n w=240n
MNM1 Y A net22 GND g45n1svt m=1 l=45n w=240n
MNM0 Y net010 net23 GND g45n1svt m=1 l=45n w=240n
XI2 A GND VDD net010 / inv
XI3 B GND VDD net09 / inv
.ENDS

************************************************************************
* Library Name: systolic_array
* Cell Name:    Full_Adder
* View Name:    schematic
************************************************************************

.SUBCKT Full_Adder A B CIN COUT GND SUM VDD
*.PININFO A:I B:I CIN:I GND:I VDD:I COUT:O SUM:O
XI10 B A GND VDD net20 / NAND
XI11 net21 net20 GND VDD COUT / NAND
XI9 net8 CIN GND VDD net21 / NAND
XI13 net8 CIN GND VDD SUM / XOR
XI12 A B GND VDD net8 / XOR
.ENDS

************************************************************************
* Library Name: accumulator_bitslice
* Cell Name:    FlipFlop
* View Name:    schematic
************************************************************************

.SUBCKT FlipFlop D GND PHI Q VDD
*.PININFO D:I GND:I PHI:I VDD:I Q:O
MPM3 Q net12 net26 VDD g45p1svt m=1 l=45n w=480n
MPM2 net13 PHI net28 VDD g45p1svt m=1 l=45n w=480n
MPM1 net26 net13 VDD VDD g45p1svt m=1 l=45n w=480n
MPM0 net28 D VDD VDD g45p1svt m=1 l=45n w=480n
MNM3 net25 net13 GND GND g45n1svt m=1 l=45n w=240n
MNM2 net27 D GND GND g45n1svt m=1 l=45n w=240n
MNM1 Q PHI net25 GND g45n1svt m=1 l=45n w=240n
MNM0 net13 net12 net27 GND g45n1svt m=1 l=45n w=240n
XI0 PHI GND VDD net12 / inv
.ENDS

************************************************************************
* Library Name: systolic_array
* Cell Name:    faabs
* View Name:    schematic
************************************************************************

.SUBCKT faabs A CIN COUT GND PHI RST SOUT VDD
*.PININFO A:I CIN:I GND:I PHI:I RST:I VDD:I COUT:O SOUT:O
XI0 A SOUT CIN COUT GND net017 VDD / Full_Adder
XI1 RST net017 GND VDD net21 / NAND
XI2 net21 GND PHI net20 VDD / FlipFlop
XI3 net20 GND VDD SOUT / inv
.ENDS

************************************************************************
* Library Name: systolic_array
* Cell Name:    AND
* View Name:    schematic
************************************************************************

.SUBCKT AND A B GND VDD Y
*.PININFO A:I B:I GND:I VDD:I Y:O
MNM2 Y net14 GND GND g45n1svt m=1 l=45n w=120n
MNM3 net14 A net24 GND g45n1svt m=1 l=45n w=240n
MNM4 net24 B GND GND g45n1svt m=1 l=45n w=240n
MPM0 net14 A VDD VDD g45p1svt m=1 l=45n w=240n
MPM1 net14 B VDD VDD g45p1svt m=1 l=45n w=240n
MPM2 Y net14 VDD VDD g45p1svt m=1 l=45n w=240n
.ENDS

************************************************************************
* Library Name: systolic_array
* Cell Name:    XOR_ni
* View Name:    schematic
************************************************************************

.SUBCKT XOR_ni A Abar B Bbar GND VDD Y
*.PININFO A:I Abar:I B:I Bbar:I GND:I VDD:I Y:O
MPM3 Y A net29 VDD g45p1svt m=1 l=45n w=480n
MPM2 net29 Bbar VDD VDD g45p1svt m=1 l=45n w=480n
MPM1 Y Abar net31 VDD g45p1svt m=1 l=45n w=480n
MPM0 net31 B VDD VDD g45p1svt m=1 l=45n w=480n
MNM3 net27 B GND GND g45n1svt m=1 l=45n w=240n
MNM2 net28 Bbar GND GND g45n1svt m=1 l=45n w=240n
MNM1 Y A net27 GND g45n1svt m=1 l=45n w=240n
MNM0 Y Abar net28 GND g45n1svt m=1 l=45n w=240n
.ENDS

************************************************************************
* Library Name: accumulator_bitslice
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B GND VDD Y
*.PININFO A:I B:I GND:I VDD:I Y:O
MNM1 Y B GND GND g45n1svt m=1 l=45n w=120n
MNM0 Y A GND GND g45n1svt m=1 l=45n w=120n
MPM1 Y B net17 VDD g45p1svt m=1 l=45n w=480n
MPM0 net17 A VDD VDD g45p1svt m=1 l=45n w=480n
.ENDS

************************************************************************
* Library Name: systolic_array
* Cell Name:    Half_Adder
* View Name:    schematic
************************************************************************

.SUBCKT Half_Adder A B COUT GND SUM VDD
*.PININFO A:I B:I GND:I VDD:I COUT:O SUM:O
XI2 A net10 B net17 GND VDD SUM / XOR_ni
XI4 B GND VDD net17 / inv
XI3 A GND VDD net10 / inv
XI5 net10 net17 GND VDD COUT / NOR
.ENDS

************************************************************************
* Library Name: systolic_array
* Cell Name:    dreg5b
* View Name:    schematic
************************************************************************

.SUBCKT dreg5b A0 A0P A1 A1P A2 A2P A3 A3P A4 A4P GND PHI VDD
*.PININFO A0:I A1:I A2:I A3:I A4:I GND:I PHI:I VDD:I A0P:O A1P:O A2P:O A3P:O 
*.PININFO A4P:O
XI9 A4 GND PHI A4P VDD / FlipFlop
XI8 A3 GND PHI A3P VDD / FlipFlop
XI7 A2 GND PHI A2P VDD / FlipFlop
XI6 A1 GND PHI A1P VDD / FlipFlop
XI5 A0 GND PHI A0P VDD / FlipFlop
.ENDS

************************************************************************
* Library Name: systolic_array
* Cell Name:    dreg8b
* View Name:    schematic
************************************************************************

.SUBCKT dreg8b A0 A0P A1 A1P A2 A2P A3 A3P A4 A4P A5 A5P A6 A6P A7 A7P GND PHI 
+ VDD
*.PININFO A0:I A1:I A2:I A3:I A4:I A5:I A6:I A7:I GND:I PHI:I VDD:I A0P:O 
*.PININFO A1P:O A2P:O A3P:O A4P:O A5P:O A6P:O A7P:O
XI0 A0 A0P A1 A1P A2 A2P A3 A3P A4 A4P GND PHI VDD / dreg5b
XI4 A5 GND PHI A5P VDD / FlipFlop
XI5 A6 GND PHI A6P VDD / FlipFlop
XI6 A7 GND PHI A7P VDD / FlipFlop
.ENDS

************************************************************************
* Library Name: systolic_array
* Cell Name:    Multiplier_ppl
* View Name:    schematic
************************************************************************

.SUBCKT Multiplier_ppl A0 A1 A2 A3 B0 B1 B2 B3 GND P0 P1 P2 P3 P4 P5 P6 P7 PHI 
+ VDD
*.PININFO A0:I A1:I A2:I A3:I B0:I B1:I B2:I B3:I GND:I PHI:I VDD:I P0:O P1:O 
*.PININFO P2:O P3:O P4:O P5:O P6:O P7:O
XI23 net063 net0114 GND VDD net079 / AND
XI15 B2 A0 GND VDD net051 / AND
XI14 B2 A1 GND VDD net050 / AND
XI13 B2 A2 GND VDD net049 / AND
XI7 B1 A0 GND VDD net48 / AND
XI5 B1 A2 GND VDD net24 / AND
XI4 B1 A1 GND VDD net62 / AND
XI2 B0 A2 GND VDD net30 / AND
XI1 B0 A1 GND VDD net47 / AND
XI0 B0 A0 GND VDD net0126 / AND
XI22 net063 net0116 GND VDD net081 / NAND
XI21 net063 net0117 GND VDD net082 / NAND
XI20 net063 net0118 GND VDD net083 / NAND
XI12 net0102 net0103 GND VDD net052 / NAND
XI6 B1 A3 GND VDD net39 / NAND
XI3 B0 A3 GND VDD net42 / NAND
XI31 net078 net083 net092 GND P3 VDD / Half_Adder
XI32 net088 VDD net0107 GND P7 VDD / Half_Adder
XI30 net60 net051 net053 GND net0124 VDD / Half_Adder
XI29 net47 net48 net45 GND net0125 VDD / Half_Adder
XI28 net072 net079 net090 net088 GND P6 VDD / Full_Adder
XI27 net073 net081 net091 net090 GND P5 VDD / Full_Adder
XI26 net076 net082 net092 net091 GND P4 VDD / Full_Adder
XI19 net0101 net052 net054 net072 GND net073 VDD / Full_Adder
XI18 net099 net0100 net055 net054 GND net076 VDD / Full_Adder
XI17 net097 net098 net096 net055 GND net078 VDD / Full_Adder
XI11 net39 VDD net54 net49 GND net50 VDD / Full_Adder
XI10 net42 net24 net59 net54 GND net55 VDD / Full_Adder
XI9 net30 net62 net45 net59 GND net60 VDD / Full_Adder
XI33 net053 net096 net55 net097 net050 net098 net50 net099 net049 net0100 
+ net49 net0101 B2 net0102 A3 net0103 GND PHI VDD / dreg8b
XI34 A0 net0118 A1 net0117 A2 net0116 A3 net0114 B3 net063 GND PHI VDD / dreg5b
XI37 net0126 GND PHI P0 VDD / FlipFlop
XI36 net0125 GND PHI P1 VDD / FlipFlop
XI35 net0124 GND PHI P2 VDD / FlipFlop
.ENDS

************************************************************************
* Library Name: systolic_array
* Cell Name:    proc_el_ppl
* View Name:    schematic
************************************************************************

.SUBCKT proc_el_ppl A0 A0P A1 A1P A2 A2P A3 A3P B0 B0P B1 B1P B2 B2P B3 B3P 
+ GND PHI RST RSTP S0 S1 S2 S3 S4 S5 S6 S7 VDD
*.PININFO A0:I A1:I A2:I A3:I B0:I B1:I B2:I B3:I GND:I PHI:I RST:I VDD:I 
*.PININFO A0P:O A1P:O A2P:O A3P:O B0P:O B1P:O B2P:O B3P:O RSTP:O S0:O S1:O 
*.PININFO S2:O S3:O S4:O S5:O S6:O S7:O
XI8 net13 net14 net21 GND PHI RST S7 VDD / faabs
XI7 net12 net15 net14 GND PHI RST S6 VDD / faabs
XI6 net11 net16 net15 GND PHI RST S5 VDD / faabs
XI5 net10 net17 net16 GND PHI RST S4 VDD / faabs
XI4 net9 net18 net17 GND PHI RST S3 VDD / faabs
XI3 net8 net19 net18 GND PHI RST S2 VDD / faabs
XI2 net7 net20 net19 GND PHI RST S1 VDD / faabs
XI1 net6 GND net20 GND PHI RST S0 VDD / faabs
XI53 A0 A1 A2 A3 B0 B1 B2 B3 GND net6 net7 net8 net9 net10 net11 net12 net13 
+ PHI VDD / Multiplier_ppl
XI35 B3 GND PHI B3P VDD / FlipFlop
XI34 B2 GND PHI B2P VDD / FlipFlop
XI33 B1 GND PHI B1P VDD / FlipFlop
XI32 B0 GND PHI B0P VDD / FlipFlop
XI31 A3 GND PHI A3P VDD / FlipFlop
XI30 A2 GND PHI A2P VDD / FlipFlop
XI29 A1 GND PHI A1P VDD / FlipFlop
XI28 A0 GND PHI A0P VDD / FlipFlop
XI54 RST GND PHI RSTP VDD / FlipFlop
.ENDS

************************************************************************
* Library Name: systolic_array
* Cell Name:    sys_arr_ppl
* View Name:    schematic
************************************************************************

.SUBCKT sys_arr_ppl A00_0 A00_1 A00_2 A00_3 A01_0 A01_1 A01_2 A01_3 A02_0 
+ A02_1 A02_2 A02_3 A03_0 A03_1 A03_2 A03_3 B00_0 B00_1 B00_2 B00_3 B10_0 
+ B10_1 B10_2 B10_3 B20_0 B20_1 B20_2 B20_3 B30_0 B30_1 B30_2 B30_3 GND PHI 
+ RST S00_0 S00_1 S00_2 S00_3 S00_4 S00_5 S00_6 S00_7 S01_0 S01_1 S01_2 S01_3 
+ S01_4 S01_5 S01_6 S01_7 S02_0 S02_1 S02_2 S02_3 S02_4 S02_5 S02_6 S02_7 
+ S03_0 S03_1 S03_2 S03_3 S03_4 S03_5 S03_6 S03_7 S10_0 S10_1 S10_2 S10_3 
+ S10_4 S10_5 S10_6 S10_7 S11_0 S11_1 S11_2 S11_3 S11_4 S11_5 S11_6 S11_7 
+ S12_0 S12_1 S12_2 S12_3 S12_4 S12_5 S12_6 S12_7 S13_0 S13_1 S13_2 S13_3 
+ S13_4 S13_5 S13_6 S13_7 S20_0 S20_1 S20_2 S20_3 S20_4 S20_5 S20_6 S20_7 
+ S21_0 S21_1 S21_2 S21_3 S21_4 S21_5 S21_6 S21_7 S22_0 S22_1 S22_2 S22_3 
+ S22_4 S22_5 S22_6 S22_7 S23_0 S23_1 S23_2 S23_3 S23_4 S23_5 S23_6 S23_7 
+ S30_0 S30_1 S30_2 S30_3 S30_4 S30_5 S30_6 S30_7 S31_0 S31_1 S31_2 S31_3 
+ S31_4 S31_5 S31_6 S31_7 S32_0 S32_1 S32_2 S32_3 S32_4 S32_5 S32_6 S32_7 
+ S33_0 S33_1 S33_2 S33_3 S33_4 S33_5 S33_6 S33_7 VDD
*.PININFO A00_0:I A00_1:I A00_2:I A00_3:I A01_0:I A01_1:I A01_2:I A01_3:I 
*.PININFO A02_0:I A02_1:I A02_2:I A02_3:I A03_0:I A03_1:I A03_2:I A03_3:I 
*.PININFO B00_0:I B00_1:I B00_2:I B00_3:I B10_0:I B10_1:I B10_2:I B10_3:I 
*.PININFO B20_0:I B20_1:I B20_2:I B20_3:I B30_0:I B30_1:I B30_2:I B30_3:I 
*.PININFO GND:I PHI:I RST:I VDD:I S00_0:O S00_1:O S00_2:O S00_3:O S00_4:O 
*.PININFO S00_5:O S00_6:O S00_7:O S01_0:O S01_1:O S01_2:O S01_3:O S01_4:O 
*.PININFO S01_5:O S01_6:O S01_7:O S02_0:O S02_1:O S02_2:O S02_3:O S02_4:O 
*.PININFO S02_5:O S02_6:O S02_7:O S03_0:O S03_1:O S03_2:O S03_3:O S03_4:O 
*.PININFO S03_5:O S03_6:O S03_7:O S10_0:O S10_1:O S10_2:O S10_3:O S10_4:O 
*.PININFO S10_5:O S10_6:O S10_7:O S11_0:O S11_1:O S11_2:O S11_3:O S11_4:O 
*.PININFO S11_5:O S11_6:O S11_7:O S12_0:O S12_1:O S12_2:O S12_3:O S12_4:O 
*.PININFO S12_5:O S12_6:O S12_7:O S13_0:O S13_1:O S13_2:O S13_3:O S13_4:O 
*.PININFO S13_5:O S13_6:O S13_7:O S20_0:O S20_1:O S20_2:O S20_3:O S20_4:O 
*.PININFO S20_5:O S20_6:O S20_7:O S21_0:O S21_1:O S21_2:O S21_3:O S21_4:O 
*.PININFO S21_5:O S21_6:O S21_7:O S22_0:O S22_1:O S22_2:O S22_3:O S22_4:O 
*.PININFO S22_5:O S22_6:O S22_7:O S23_0:O S23_1:O S23_2:O S23_3:O S23_4:O 
*.PININFO S23_5:O S23_6:O S23_7:O S30_0:O S30_1:O S30_2:O S30_3:O S30_4:O 
*.PININFO S30_5:O S30_6:O S30_7:O S31_0:O S31_1:O S31_2:O S31_3:O S31_4:O 
*.PININFO S31_5:O S31_6:O S31_7:O S32_0:O S32_1:O S32_2:O S32_3:O S32_4:O 
*.PININFO S32_5:O S32_6:O S32_7:O S33_0:O S33_1:O S33_2:O S33_3:O S33_4:O 
*.PININFO S33_5:O S33_6:O S33_7:O
XI18 A00_0 net378 A00_1 net478 A00_2 net380 A00_3 net381 B00_0 net445 B00_1 
+ net444 B00_2 net443 B00_3 net442 GND PHI RST net0176 S00_0 S00_1 S00_2 S00_3 
+ S00_4 S00_5 S00_6 S00_7 VDD / proc_el_ppl
XI19 net378 net370 net478 net371 net380 net372 net381 net373 B10_0 net374 
+ B10_1 net375 B10_2 net376 B10_3 net377 GND PHI net0176 net0195 S10_0 S10_1 
+ S10_2 S10_3 S10_4 S10_5 S10_6 S10_7 VDD / proc_el_ppl
XI20 net370 net354 net371 net355 net372 net356 net373 net357 B20_0 net441 
+ B20_1 net440 B20_2 net439 B20_3 net438 GND PHI net0195 net0194 S20_0 S20_1 
+ S20_2 S20_3 S20_4 S20_5 S20_6 S20_7 VDD / proc_el_ppl
XI21 net354 net0310 net355 net0311 net356 net0312 net357 net0313 B30_0 net350 
+ B30_1 net351 B30_2 net352 B30_3 net353 GND PHI net0194 net0346 S30_0 S30_1 
+ S30_2 S30_3 S30_4 S30_5 S30_6 S30_7 VDD / proc_el_ppl
XI25 A01_0 net425 A01_1 net424 A01_2 net423 A01_3 net422 net445 net361 net444 
+ net360 net443 net359 net442 net358 GND PHI net0176 net0178 S01_0 S01_1 S01_2 
+ S01_3 S01_4 S01_5 S01_6 S01_7 VDD / proc_el_ppl
XI24 net425 net421 net424 net420 net423 net419 net422 net418 net374 net437 
+ net375 net436 net376 net435 net377 net434 GND PHI net0178 net0193 S11_0 
+ S11_1 S11_2 S11_3 S11_4 S11_5 S11_6 S11_7 VDD / proc_el_ppl
XI23 net421 net417 net420 net416 net419 net415 net418 net414 net441 net433 
+ net440 net432 net439 net431 net438 net430 GND PHI net0193 net0192 S21_0 
+ S21_1 S21_2 S21_3 S21_4 S21_5 S21_6 S21_7 VDD / proc_el_ppl
XI22 net417 net0306 net416 net0307 net415 net0308 net414 net0309 net350 net429 
+ net351 net428 net352 net427 net353 net426 GND PHI net0192 net0339 S31_0 
+ S31_1 S31_2 S31_3 S31_4 S31_5 S31_6 S31_7 VDD / proc_el_ppl
XI28 net401 net413 net400 net412 net399 net411 net398 net410 net433 net402 
+ net432 net403 net431 net404 net430 net405 GND PHI net0191 net0190 S22_0 
+ S22_1 S22_2 S22_3 S22_4 S22_5 S22_6 S22_7 VDD / proc_el_ppl
XI29 net413 net0302 net412 net0303 net411 net0304 net410 net0305 net429 net406 
+ net428 net407 net427 net408 net426 net409 GND PHI net0190 net0340 S32_0 
+ S32_1 S32_2 S32_3 S32_4 S32_5 S32_6 S32_7 VDD / proc_el_ppl
XI27 net362 net401 net363 net400 net364 net399 net365 net398 net437 net394 
+ net436 net395 net435 net396 net434 net397 GND PHI net0177 net0191 S12_0 
+ S12_1 S12_2 S12_3 S12_4 S12_5 S12_6 S12_7 VDD / proc_el_ppl
XI26 A02_0 net362 A02_1 net363 A02_2 net364 A02_3 net365 net361 net366 net360 
+ net367 net359 net368 net358 net369 GND PHI net0178 net0177 S02_0 S02_1 S02_2 
+ S02_3 S02_4 S02_5 S02_6 S02_7 VDD / proc_el_ppl
XI30 net385 net0298 net384 net0299 net383 net0300 net382 net0301 net406 
+ net0297 net407 net0296 net408 net0295 net409 net0294 GND PHI net0187 net0335 
+ S33_0 S33_1 S33_2 S33_3 S33_4 S33_5 S33_6 S33_7 VDD / proc_el_ppl
XI31 net389 net385 net388 net384 net387 net383 net386 net382 net402 net0293 
+ net403 net0292 net404 net0291 net405 net0290 GND PHI net0188 net0187 S23_0 
+ S23_1 S23_2 S23_3 S23_4 S23_5 S23_6 S23_7 VDD / proc_el_ppl
XI32 net393 net389 net392 net388 net391 net387 net390 net386 net394 net0289 
+ net395 net0288 net396 net0287 net397 net0286 GND PHI net0189 net0188 S13_0 
+ S13_1 S13_2 S13_3 S13_4 S13_5 S13_6 S13_7 VDD / proc_el_ppl
XI33 A03_0 net393 A03_1 net392 A03_2 net391 A03_3 net390 net366 net0285 net367 
+ net0284 net368 net0283 net369 net0282 GND PHI net0177 net0189 S03_0 S03_1 
+ S03_2 S03_3 S03_4 S03_5 S03_6 S03_7 VDD / proc_el_ppl
.ENDS

